US04163844
A mixture of 0.2 g. of α-isopropyl-2-carboxymethylbenzoic acid, 0.2 g. of 3-aminopropanethiol.hydrobromide, 0.1 g. of sodium acetate, and 3 ml. of o-dichlorobenzene was heated to 140°-150° C. for one hour with stirring. The reaction mixture obtained was cooled below 100° C. and after adding thereto 0.25 g. of p-toluenesulfonic acid, the mixture was heated to 160° C. for 6 hours. Thereafter, by following the same procedure as in Example 52, 0.07 g. of 11-isopropyl-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline was obtained.

reactant | 3-aminopropanethiol.hydrobromide | Br.NCCCS
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 11-isopropyl-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | C(C)(C)C1=C2N(C(C=3C=CC=CC13)=O)CCCS2 | C15H17NOS
